US09029536B2
B) 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]imidazo[1,2-a]pyridine
A mixture of 2-(4-bromophenoxy)imidazo[1,2-a]pyridine (370 mg), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (487 mg), Pd(dppf)2Cl2 dichloromethane adduct (52.6 mg) and KOAc (377 mg) in THF (10 mL)-DMSO (0.500 mL) was stirred at 80° C. under Ar for 3 h. The mixture was poured into water at room temperature and extracted with AcOEt. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (280 mg). 1H NMR (300 MHz, DMSO-d5) δ 1.29 (12H, s), 6.88-7.01 (1H, m), 7.07-7.19 (2H, m), 7.22-7.33 (1H, m), 7.41-7.56 (1H, m), 7.63 (3H, s), 8.41-8.56 (1H, m).

reactant | 2-(4-bromophenoxy)imidazo[1,2-a]pyridine | 370 mg | BrC1=CC=C(OC=2N=C3N(C=CC=C3)C2)C=C1 | C13H9BrN2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 487 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 377 mg | CC(=O)[O-].[K+]
reactant | DMSO | 0.500 mL | CS(=O)C | C2H6OS
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)2Cl2 dichloromethane | 52.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | water | O | H2O
product | 2-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]imidazo[1,2-a]pyridine | 280 mg | CC1(OB(OC1(C)C)C1=CC=C(OC=2N=C3N(C=CC=C3)C2)C=C1)C | C19H21BN2O3
